US04604464
Preparation of 3-(o-Methylaminobenzoyl)-3,4-dihydro-phthalazin-1(2H)-one
To 3.3 g (0.022 ml) of 3,4-dihydro-phthalazin-1(2H)-one dissolved in 100 ml of xylene was added 3.9 g (0.022 mol) of N-methylisatoic anhydride and the solution was stirred and heated at reflux under N2 for 16 hours. The mixture was then cooled to room temperature (about 25° C.) whereupon a heavy precipitate formed. The 3-(o-methylaminobenzoyl)-3,4-dihydro-phthalazin-1(2H)-one was collected as a solid, washed well with xylene to give an off-white powder, mp 199°-202° C.

reactant | 3,4-dihydro-phthalazin-1(2H)-one | 0.022 ml, 3.3 g | C1(NNCC2=CC=CC=C12)=O | C8H8N2O
reactant | N-methylisatoic anhydride | 0.022 mol, 3.9 g | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(o-Methylaminobenzoyl)-3,4-dihydro-phthalazin-1(2H)-one | CNC1=C(C(=O)N2NC(C3=CC=CC=C3C2)=O)C=CC=C1 | C16H15N3O2
